US03948915
After 1.23 g of methyl N-cyanocyanoacetimidate was dissolved in 10 ml of glacial acetic acid, 10.7 g of a 20% ether solution of hydrogen chloride was added dropwise at 15°-25°C to the solution. Then, the solution was made to react for 6 hours at room temperature. After the reaction, the solvent was distilled off to give a residue. The residue was dissolved in 10 ml of water and the solution was neutralized with sodium bicarbonate solution to give precipitates. Then, the precipitates were collected by filtration, washed with water and dried to give 1.47 g of crude crystals. The crystals were recrystallized from diluted hydrochloric acid to give 1.33 g of 2-chloro-4-methoxy-6-aminopyrimidine (yield 83.1%), mp 186°-187°C.

reactant | methyl N-cyanocyanoacetimidate | 1.23 g | C(#N)N=C(CC#N)OC | C5H5N3O
reactant | ether | CCOCC | C4H10O
reactant | hydrogen chloride | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | water | 10 ml | O | H2O
product | 2-chloro-4-methoxy-6-aminopyrimidine | 1.33 g, yield 83.1% | ClC1=NC(=CC(=N1)OC)N | C5H6ClN3O
